* C:\Users\TEST\Documents\GitHub\Sensor-velocidad\Filtro\Filtro_T.asc
V1 N001 0 AC 1 0
L1 N001 N002 1.909
L2 N002 N003 1.909
R1 N003 0 600
C1 N002 0 10.61µ
.ac dec 100 1 1k
.backanno
.end
