* C:\Users\TEST\Documents\GitHub\Sensor-velocidad\Filtro\Filtro_pi.asc
L1 N001 N002 3.8197
C1 N001 0 5.305µ
C2 N002 0 5.305µ
V1 N001 0 AC 1 0
R1 N002 0 600
.ac dec 100 1 1k
.backanno
.end
